US05523403
(S)-N-[[3-[4-(4-methoxy-5-oxo-l,3,6-cycloheptatrien-1-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide.
The tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct (450 mg, 0.492 mmol) and the trifurylphosphine (460 mg, 1.969 mmol) were stirred together for 5 min in 1,4-dioxane (25 mL), followed by the addition of (S)-N-[[3-(4-iodo-3,5-difluorophenyl)-2-oxo-5-oxazolidinyl]methyl]acetamide (1.3 g, 3.28 mmol). After degassing the solution three times with N2, the trimethyl(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)tin (1.47 g, 4.92 mmol) was added. The solution was degassed again (3×) and then the solution was heated to reflux (110 ° C.) for 12 h under N2. Upon cooling, the reaction was determined to be complete by TLC (10% MeOH/CHCl3, UV short wave). The reaction was concentrated under reduced pressure and then redissolved in CH2Cl2 (100 mL). This solution was stirred over aqueous KF (100 mL) for 45 min and then separated. The organic portion was washed with brine (100 mL) and then dried over anhydrous Na2SO4. After drying, it was filtered and concentrated under reduced pressure to yield a brown solid. The crude product was chromatographed on silica gel (175 g of silica gel, packed with 10% CH3CN/CHCl3, eluting with a gradient of 1-5% MeOH in 10% CH3CN/CHCl3) to give a pale yellow solid. This solid was recrystalized by dissolving it in CH2Cl2 /MeOH and triturating with ether to yield 907 mg (68%) of the title compound as an off-white solid with mp 129 ° C (dec) and a HRMS (M+) calculated for C20H18N2O5F2 404.1184, found 404.1183.

reactant | trifurylphosphine | 1.969 mmol, 460 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | (S)-N-[[3-(4-iodo-3,5-difluorophenyl)-2-oxo-5-oxazolidinyl]methyl]acetamide | 3.28 mmol, 1.3 g | IC1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC(C)=O)=O)F | C12H11F2IN2O3
reactant | trimethyl(4-methoxy-5-oxo-1,3,6-cycloheptatrien-1-yl)tin | 4.92 mmol, 1.47 g | C[Sn](C1=CC=C(C(C=C1)=O)OC)(C)C
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct | 0.492 mmol, 450 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | (S)-N-[[3-[4-(4-methoxy-5-oxo-l,3,6-cycloheptatrien-1-yl)-3,5-difluorophenyl]-2-oxo-5-oxazolidinyl]methyl]acetamide | 907 mg, 68% | COC1=CC=C(C=CC1=O)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC(C)=O)=O)F | C20H18F2N2O5
